US08557984B2
Reference Compound E: Methyl [(3S)-5-(4-chlorophenyl)-7-(methyloxy)-2-thioxo-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]acetate
A suspension of P4S10 (36.1 g, 81.1 mmol) and Na2CO3 (8.6 g, 81.1 mmol) in 1,2-DCE (700 ml) at room temperature was stirred for 2 h before methyl [(3S)-5-(4-chlorophenyl)-7-(methyloxy)-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]acetate (for a preparation see Reference compound D) (16.8 g, 45.1 mmol) was added. The resulting mixture was stirred at 70° C. for 2 h before being cooled and filtered. The solid was washed twice with DCM and the filtrate washed with sat. Sodium hydrogen carbonate and brine. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by flash-chromatography on silica gel (DOM/MeOH: 99/1) to afford the title compound (17.2 g, 98% yield) as a yellowish solid. LC/MS (Method D): m/z 389 [M(35Cl)+H]+, Rt 2.64 min

reactant | P4S10 | 81.1 mmol, 36.1 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | Na2CO3 | 81.1 mmol, 8.6 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl [(3S)-5-(4-chlorophenyl)-7-(methyloxy)-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]acetate | ClC1=CC=C(C=C1)C1=N[C@H](C(NC2=C1C=C(C=C2)OC)=O)CC(=O)OC | C19H17ClN2O4
solvent | 1,2-DCE | 700 ml | ClCCCl | C2H4Cl2
product | Methyl [(3S)-5-(4-chlorophenyl)-7-(methyloxy)-2-thioxo-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]acetate | 17.2 g, 98% yield | ClC1=CC=C(C=C1)C1=N[C@H](C(NC2=C1C=C(C=C2)OC)=S)CC(=O)OC | C19H17ClN2O3S
